US06727264B1
N-(3-{1-[4-OXO-4-(4-PHENOXYPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 4-chloro-1-(4-phenoxyphenyl)-1-butanone and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 471.2 (M+H)+.

reactant | 4-chloro-1-(4-phenoxyphenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H15ClO2
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[4-OXO-4-(4-PHENOXYPHENYL)BUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | O=C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C30H34N2O3
